data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4655,5308,[CH3:9][NH:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[N-:22][C:23]([CH3:24])=[O:25].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:22]([C:23]([CH3:24])=[O:25])[N:20]([CH3:21])[C:13]1([C:11]([NH:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,27.41063269906488,-14.911103607458804
4476,5109,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([C:11]([CH3:10])=[O:12])([C:22]([CH3:23])=[O:24])[N:14]=[C:15]1[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,21.962989120155672,-15.760443896308566
946,1027,[CH3:1][O:2][C:3]#[C:4][C:5]([F:6])([F:7])[F:8].[CH3:9][NH:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16](=[O:17])[O:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23]>>[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[C:15]([C:16](=[O:17])[O:18][CH3:19])=[N:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,16.822818471990605,-66.62456983645207
205,222,[CH3:11][NH:12][C:13](=[O:14])[C:15]([CH3:16])=[NH+:17][NH-:18].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[NH:17][NH:18]2,water,298.15,23.420329555296288,-13.160532269775212
2136,2370,[CH3:15][O:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[F:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([O:16][CH3:15])=[O:18])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:20][C:21]2([C:22]#[N:23])[C:24]([CH3:25])=[O:26],water,298.15,13.172067520254586,-28.984822066761044
3575,4081,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:17]([C:18]#[N:19])=[N:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,14.844449384533016,-38.15353227228218
2676,2974,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[C-:24]([O+:25]=[C:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[C:35]([CH3:36])=[O:37]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:26]([C:27]#[N:28])([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[O:25][C:24]2([C:22]([CH3:21])=[O:23])[C:35]([CH3:36])=[O:37],water,298.15,8.8906643366799,-55.600075416834
4154,4757,[CH3:10][O:11][C:12](=[O:13])[N-:14][NH+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[NH:15][N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,30.57931588278873,1.813661085170788
1118,1216,[CH2:12]=[N+:13]([CH3:14])[C-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:15]([C:16](=[O:17])[NH:18][CH3:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:13]([CH3:14])[CH2:12]3,water,298.15,19.42564693410486,-49.51890220209585
3816,4368,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][NH:10][C:11](=[O:12])[CH-:13][N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:13]([C:11]([NH:10][CH3:9])=[O:12])[N:14]=[C:15]2[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,0.6913351131468576,-44.519573391861925
2594,2875,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C:25]#[N+:26][C-:27]([C:28](=[O:29])[O:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([O:13][CH3:14])([O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([O:22][CH3:21])=[O:24])=[N:26][C:27]2([C:28](=[O:29])[O:30][CH3:31])[C:32](=[O:33])[O:34][CH3:35],water,298.15,8.538276023641998,-58.15368468882583
